US08114902B2
(23-1) Synthesis of 2-amino-2-[2-(4′-bromo-2′-fluorobiphenyl-4-yl)ethyl]propane-1,3-diol
N-{5-[2-(4′-Bromo-2′-fluorobiphenyl-4-yl)ethyl]-2,2-dimethyl-1,3-dioxan-5-yl}acetamide (2.50 g) of Reference Example 10 was dissolved in ethanol (50 mL), concentrated hydrochloric acid (25 mL) was added, and the mixture was stirred at 80° C. for 4 hr. The reaction mixture was concentrated, and neutralized with 1M aqueous sodium hydroxide solution. The precipitated crystals were collected by filtration to give the title compound (1.36 g) as white crystals.

reactant | N-{5-[2-(4′-Bromo-2′-fluorobiphenyl-4-yl)ethyl]-2,2-dimethyl-1,3-dioxan-5-yl}acetamide | 2.50 g | BrC1=CC(=C(C=C1)C1=CC=C(C=C1)CCC1(COC(OC1)(C)C)NC(C)=O)F | C22H25BrFNO3
reactant | hydrochloric acid | 25 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-amino-2-[2-(4′-bromo-2′-fluorobiphenyl-4-yl)ethyl]propane-1,3-diol | 1.36 g | NC(CO)(CO)CCC1=CC=C(C=C1)C1=C(C=C(C=C1)Br)F | C17H19BrFNO2
